US04704462
Diethyl azodicarboxylate (26.1 g, 0.15 mol) and triphenyl phosphine (39.3 g, 0.15 mol) were added to a solution of 3-allyloxyphenol (15 g, 0.1 mol) and 3,4-dimethoxycinnamyl alcohol (19.4 g, 0.1 mol) in THF (100 ml). The mixture was stirred at room temperature overnight, and ethyl ether was added. The precipitate was filtered off, and the filtrate was evaporated to a residue, which was purified by HPLC using hexane-ethyl acetate (4:1 v/v) as a liquid phase. 3,4-Dimethoxycinnamyl allyloxyphenyl ether was isolated as a crystalline mass (7.4 g, 23%), m.p. 60°-60.5° C.; NMR (CDCl3): δ3.93, 3.94 (s, s, 2 OCH3), 4.57 (d, t, J=5.5, 1.5, 1.5 Hz, CH2CH=CH2), 4.71 (d, d, J=6.0, 1.5 Hz, CH=CHCH2), 5.28-5.50 (m, CH2CH=CH2), 6.10 (m, CH2CH=CH2 ), 6.26-6.40 (m, CH=CHCH2), 6.56-7.28 (m, ArH).

reactant | Diethyl azodicarboxylate | 0.15 mol, 26.1 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenyl phosphine | 0.15 mol, 39.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-allyloxyphenol | 0.1 mol, 15 g | C(C=C)OC=1C=C(C=CC1)O | C9H10O2
reactant | 3,4-dimethoxycinnamyl alcohol | 0.1 mol, 19.4 g | COC=1C=C(C=CCO)C=CC1OC | C11H14O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 3,4-Dimethoxycinnamyl allyloxyphenyl ether | C(C=C)OC1=C(C=CC=C1)OCC=CC1=CC(=C(C=C1)OC)OC | C20H22O4
